US07071175B1
Triphenylphosphine (4.69 g, 17.9 mmol) and CBr4 (4.89 g, 14.8 mmol) was added to a solution of 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-hydroxymethyl-4-methylpyridin (5.00 g, 22.0 mmol) in dichloromethane (130 mL) at 0° C. The reaction mixture was stirred for 3 h and was then diluted with dichloromethane. The organic phase was washed with water, dried and concentrated under reduced pressure. Flash chromatography (hexane/EtOAc, 80:20) gave 5-bromomethyl-2-[N,N-bis(tert-butoxycarbonyl)amino]-4-methylpyridin (5.35 g, 90%).

reactant | Triphenylphosphine | 17.9 mmol, 4.69 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CBr4 | 14.8 mmol, 4.89 g | C(Br)(Br)(Br)Br | CBr4
reactant | 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-hydroxymethyl-4-methylpyridin | 22.0 mmol, 5.00 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C(=C1)C)CO | C17H26N2O5
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
product | 5-bromomethyl-2-[N,N-bis(tert-butoxycarbonyl)amino]-4-methylpyridin | 5.35 g, 90% | BrCC=1C(=CC(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C17H25BrN2O4
